US07410984B2
3-[4-(3-{4-[(1-2,3-Dihydroindol-1-ylmethanoyl)amino]phenyl}-2-oxo-2H-pyridin-1-ylmethyl)phenyl]propionic acid methyl ester (P22)
A solution of 3-{4-[3-(4-aminophenyl)-2-oxo-2H-pyridin-1-ylmethyl]phenyl}propionic acid methyl ester in tetrahydrofuran (5 mL) was added to a stirred solution of triphosgene (0.135 g, 0.45 mmol) in tetrahydrofuran (5 mL) at 0° C. After 2 hours a solution of indoline (0.054 g, 0.45 mmol) in tetrahydrofuran (2.5 mL) was added and stirring continued at room temperature for 18 hours. The mixture was then poured into ethyl acetate (25 mL) and washed sequentially with hydrochloric acid (10 mL, 1M), saturated aqueous sodium bicarbonate (10 mL) and brine before drying over anhydrous magnesium sulfate. After filtration and evaporation to dryness the residue was chromatographed on silica gel with a gradient of 1:1 rising to 3:1 ethyl acetate to hexane to give the title compound as a solid.

reactant | 3-{4-[3-(4-aminophenyl)-2-oxo-2H-pyridin-1-ylmethyl]phenyl}propionic acid methyl ester | COC(CCC1=CC=C(C=C1)CN1C(C(=CC=C1)C1=CC=C(C=C1)N)=O)=O | C22H22N2O3
reactant | triphosgene | 0.45 mmol, 0.135 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | indoline | 0.45 mmol, 0.054 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 3-[4-(3-{4-[(1-2,3-Dihydroindol-1-ylmethanoyl)amino]phenyl}-2-oxo-2H-pyridin-1-ylmethyl)phenyl]propionic acid methyl ester | COC(CCC1=CC=C(C=C1)CN1C(C(=CC=C1)C1=CC=C(C=C1)NC(=O)N1CCC2=CC=CC=C12)=O)=O | C31H29N3O4
